US07732446B1
A solution of crude 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (724 mg, 2.49 mmol) in 30 mL THF was treated with Boc anhydride (650 mg, 2.98 mmol) and TEA (716 mg, 7.08 mmol) as describe in Example 1C to give 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (974 mg, 83.4%). H1-NMR (CDCl3): δ 9.01 (s, 1H), 8.50 (s, 1H), 7.36 (s, 1H), 6.27 (m, 1H), 4.92 (d, J=4.4 Hz, 2H), 4.47 (q, J=6.9 Hz, 2H), 4.08 and 4.04 (s, 3H each), 1.51 (s, 9H), 1.47 (t, J=7.2 Hz, 3H).

reactant | 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 2.49 mmol, 724 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CN | C15H18N2O4
reactant | Boc anhydride | 2.98 mmol, 650 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 974 mg, 83.4% | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C20H26N2O6
